US04535073
To a mixture of 1.85 grams of dimethyl 1-(3-nitrobenzylidene)-acetonylphosphonate and 0.75 gram of methyl 3-aminocrotonate was added 25 ml of isopropanol and the mixture was heated to reflux for four hours with stirring. The reaction mixture was concentrated in vacuo, to the residue was added ether, the resulting crystals were collected by filtration, and recrystallized from ethyl acetate to afford 1.08 grams (yield 42%) of methyl 5-dimethoxyphosphinyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate, pale yellow crystals, melting point 221°-3° C.

reactant | dimethyl 1-(3-nitrobenzylidene)-acetonylphosphonate | 1.85 grams | [N+](=O)([O-])C=1C=C(C=C(C(=O)C)P(OC)(OC)=O)C=CC1 | C12H14NO6P
reactant | methyl 3-aminocrotonate | 0.75 gram | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | methyl 5-dimethoxyphosphinyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | 1.08 grams, yield 42% | COP(=O)(C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])OC | C17H21N2O7P
